US05547954
Under a nitrogen atmosphere, a stirred solution of 14.9 grams (0.10 mole) of 3-cyano-2-hydroxy-4,6-dimethylpyridine is cooled in an ice bath, and a solution of 18.1 grams (0.10 mole) of N-bromosuccinimide in 50 mL of N,N-dimethylformamide is added dropwise during a 15 minute period. Upon completion of addition the reaction mixture is stirred at ambient temperature for about 72 hours. After this time, the reaction mixture is diluted to 1000 mL with water and filtered to collect a solid. The solid is dried under vacuum at about 60° C., yielding 22.2 grams of 5-bromo-3-cyano-2-hydroxy-4,6-dimethylpyridine, mp 254-262° C. The NMR spectrum is consistent with the proposed structure.

reactant | 3-cyano-2-hydroxy-4,6-dimethylpyridine | 0.10 mole, 14.9 grams | C(#N)C=1C(=NC(=CC1C)C)O | C8H8N2O
reactant | N-bromosuccinimide | 0.10 mole, 18.1 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-bromo-3-cyano-2-hydroxy-4,6-dimethylpyridine | 22.2 grams | BrC=1C(=C(C(=NC1C)O)C#N)C | C8H7BrN2O
